US08669266B2
(ii) 4-Acetoxy-7-methyl-naphthalene-2-carboxylic acid ethyl ester
To a solution of 2 g of 2-[1-m-Tolyl-meth-(E)-ylidene]-succinic acid diethyl ester in 10 ml of acetic acid anhydride, 594 mg sodium acetate was added and the reaction mixture was heated to reflux for 5 h. After cooling to RT the reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic phases were washed three times with saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate (1/1). The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 860 mg.

reactant | 2-[1-m-Tolyl-meth-(E)-ylidene]-succinic acid diethyl ester | 2 g | C(C)OC(/C(/CC(=O)OCC)=C/C=1C=C(C=CC1)C)=O | C16H20O4
reactant | sodium acetate | 594 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-Acetoxy-7-methyl-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=CC(=CC=C2C(=C1)OC(C)=O)C | C16H16O4
